### PR TITLE
feat(GreensOpenProblems): 22

### LINKED ISSUE #1557: Green's Open Problems #22
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.22

If $\\{1, . . . , N\\}$ is $r$-coloured then, for $N \geq N_0(r)$, there are integers $x, y \geq 3$ such that $x + y, xy$ have the same colour. Find reasonable bounds for $N_0(r)$.

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeangud**
# Description
If $\lbrace 1, . . . , N \rbrace$ is $r$-coloured then, for $N \geqslant N_0(r)$, there are integers $x, y \geqslant 3$ such that $x + y, xy$ have the same colour. Find reasonable bounds for $N_0(r)$.

- Closes #1557
- Green mentions their paper [GrSa25] " arguably addresses the original formulation of the problem" with $N_0(r) \leq \exp~\exp (r^{50})$. I include an additional version where the `answer` tries to beat that bound.
- Also added some of Moreira's results justifying the existence of $N_0(r)$.
- Not sure whether we want to expand further and include **Hindman's question** (mentioned in Green's comments). Likely for another PR.

# Testing
- I checked corner cases, especially $r = 0$ and $N < 9$ and looks like they do not render the theorems trivially True/False.
- Builds successfully
```shell
$ lake build FormalConjectures/GreensOpenProblems/22.lean 
Build completed successfully.
```

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/22.lean [hunk 1]
```diff
@@ -0,0 +1,118 @@
...
+
+/--
+The monochromatic sum-product property: a colouring $c$ of $\lbrace 1, \ldots, N \rbrace$ has a
+pair $(x, y)$ with $x, y \geq 3$ such that $x + y$ and $xy$ are both in
+$\lbrace 1, \ldots, N \rbrace$ and receive the same colour.
+-/
+def HasMonochromaticSumProduct (N : ℕ) (r : ℕ) (coloring : ℕ → Fin r) : Prop :=
+  ∃ x y : ℕ, 3 ≤ x ∧ 3 ≤ y ∧
+    x + y ∈ Icc 1 N ∧ x * y ∈ Icc 1 N ∧
+    coloring (x + y) = coloring (x * y)
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/22.lean]: in the docstring this is about a coloring from $\{1, \dots, N\}$ but the code gives a coloring from `ℕ → Fin r`. What is really meant here? I don't undertand how the color of `x + y` and `x * y` is defined in the formal text.

File: FormalConjectures/GreensOpenProblems/22.lean [hunk 2]
```diff
@@ -0,0 +1,118 @@
...
+  sorry
+
+/--
+[Mo17, Corollary 1.5] For any finite coloring of $\mathbb{N}$ there exist (infinitely many)
+$x, y \in \mathbb{N}$ such that $\{x, xy, x+y\}$ is monochromatic.
+-/
+@[category research solved, AMS 5 11]
+theorem green_22.variants.moreira_infinite :
+    ∀ (r : ℕ) (coloring : ℕ → Fin r),
+    Set.Infinite { p : ℕ × ℕ |
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/22.lean:96]: does this also need $3 \le p.1$ and $3 \le p.2$?

**Review by mo271 — COMMENTED** [review]
Thanks! A few initial remarks..

File: FormalConjectures/GreensOpenProblems/22.lean (hunk 1 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/22.lean]: Thank you for the initial thoughts, @mo271!

Fair point, reminiscent of your previous comment [here](https://github.com/google-deepmind/formal-conjectures/pull/2005#discussion_r2759510794). I had chosen a total coloring on ℕ by convenience, to avoid carrying the subtype around, with the values outside of $\lbrace 1,\ldots, N\rbrace$ being unused. I am actually unsure how much overhead that represents to carry around once on the proof side...

I pushed 195e2bf which now enforces the $r$-coloring to be over $\lbrace 1,\ldots, N\rbrace$ instead of ℕ.

Does this address your second point on the coloring of $x+y$ and $x * y$?

File: FormalConjectures/GreensOpenProblems/22.lean (hunk 2 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/22.lean:96]: Technically no if we want to match the exact statement from [Mo17 Corollary 1.5 (p.2)](https://arxiv.org/pdf/1605.01469).

However, your comment made me realize Moreira uses the convention $\mathbb{N} = \lbrace 1, 2, \ldots \rbrace$ in their paper, so we need at least `0 < p.1 ∧ 0 < p.2` (added with f15a3e3). I also removed `moreira_existence` which was somewhat redundant, and inconsistent since it was using `HasMonochromaticSumProduct` which did required the $x,y \geq 3$ condition.

Thank you for forcing a second look here!

**Comment by jeangud** [comment]
@mo271 any thoughts on the above? I added a couple commits trying to address your comments above :blush:

File: FormalConjectures/GreensOpenProblems/22.lean [hunk 3]
```diff
@@ -0,0 +1,111 @@
...
+      0 < p.1 ∧ 0 < p.2 ∧
+      coloring p.1 = coloring (p.1 * p.2) ∧
+      coloring p.1 = coloring (p.1 + p.2) } := by
+  sorry
+
+/--
+Since $x, y \geq 3$, we must have $xy \geq 9$, so $N_0(r) \geq 9$.
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/22.lean]:
```suggestion
Since $x, y \geq 3$, we must have $xy \geq 9$, so $N_0(r) \geq 9$
(assuming $N_0(r)$ is well-defined, which follows from [Mo17]).
```

File: FormalConjectures/GreensOpenProblems/22.lean [hunk 4]
```diff
@@ -0,0 +1,111 @@
...
+-/
+@[category research solved, AMS 5 11]
+theorem green_22.variants.lower_trivial : ∀ r : ℕ, r ≠ 0 → 9 ≤ N₀ r := by
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/22.lean]:
```suggestion
theorem green_22.variants.lower_nine : ∀ r : ℕ, r ≠ 0 → 9 ≤ N₀ r := by
```

**Review by mo271 — COMMENTED** [review]
Thanks, LGTM now!
just some name and docstring suggestion

**Comment by jeangud** [comment]
Sweet 🎉 Thank you @mo271

**Review by mo271 — APPROVED** [review]
